US05948793
100a. 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-bromo-pyridine
A sample of 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-bromo-pyridine-N-oxide, from Example 98a above, is reacted with hydrogen in the presence of Raney nickel according to the method of Y. Tamura et al., Heterocycles, 15:871-874 (1981). The solvents are removed, and the product is extracted, then purified by chromatography on silica gel.

reactant | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-bromo-pyridine-N-oxide | CN1[C@@H](CCC1)COC=1C=[N+](C=C(C1)Br)[O-] | C11H15BrN2O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
product | 3-((1-methyl-2-(S)-pyrrolidinyl)methoxy)-5-bromo-pyridine | CN1[C@@H](CCC1)COC=1C=NC=C(C1)Br | C11H15BrN2O
